US05071999
a) Ethyl 1,4-diazatricyclo[6.2.0.02,6 ]decane-4-carboxylate
17.1 g (0.1 mol) of ethyl N-allyl-N-(2-oxoethyl) -carbamate are heated under reflux overnight in a water separator with 10 g (0.1 mol) of azetidine-2-carboxylic acid in 200 ml of toluene. Unreacted amino acid is filtered off with suction, the filtrate is concentrated and the residue is distilled.

reactant | ethyl N-allyl-N-(2-oxoethyl) -carbamate | 0.1 mol, 17.1 g | C(C=C)N(C(OCC)=O)CC=O | C8H13NO3
reactant | water | O | H2O
reactant | azetidine-2-carboxylic acid | 0.1 mol, 10 g | N1C(CC1)C(=O)O | C4H7NO2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 1,4-diazatricyclo[6.2.0.02,6 ]decane-4-carboxylate | N12C3CN(CC3CC2CC1)C(=O)OCC | C11H18N2O2
